US07482341B2
N-(5-Cyclopropylmethoxymethyl-6-methyl-pyridin-2-yl)-5-fluoro-2-methyl-benzenesulfonamide
This material was prepared in analogy to example 1 from 5-cyclopropylmethoxymethyl-6-methyl-pyridin-2-ylamine (0.053 g) and 5-fluoro-2-methyl-benzenesulfonyl chloride (0.058 g) as a light yellow solid (0.063 g). MS (ESI−): 363.3 ([M−H]−)

reactant | 5-cyclopropylmethoxymethyl-6-methyl-pyridin-2-ylamine | 0.053 g | C1(CC1)COCC=1C=CC(=NC1C)N | C11H16N2O
reactant | 5-fluoro-2-methyl-benzenesulfonyl chloride | 0.058 g | FC=1C=CC(=C(C1)S(=O)(=O)Cl)C | C7H6ClFO2S
product | N-(5-Cyclopropylmethoxymethyl-6-methyl-pyridin-2-yl)-5-fluoro-2-methyl-benzenesulfonamide | C1(CC1)COCC=1C=CC(=NC1C)NS(=O)(=O)C1=C(C=CC(=C1)F)C | C18H21FN2O3S
